US05610162
Preparation of 20-trimethylacetyloxy-5α-4-azapregn-1-ene-3-one
Employing substantially the same procedure as described in Example 6, but substituting 20-hydroxy-5α-4-azapregn-1-ene-3-one and trimethylacetyl chloride for the 20-hydroxy-4-methyl-5α-4-azapregnan-3-one and 10-undecenoyl chloride, respectively, used therein, the title compound was obtained. MS M-1 calculated for C25H39NO3, mw=402.53; observed m/e 401.

reactant | 20-hydroxy-5α-4-azapregn-1-ene-3-one | OC(C)[C@H]1CC[C@H]2[C@@H]3CC[C@H]4NC(C=C[C@]4(C)[C@H]3CC[C@]12C)=O | C20H31NO2
reactant | trimethylacetyl chloride | CC(C(=O)Cl)(C)C | C5H9ClO
reactant | 20-hydroxy-4-methyl-5α-4-azapregnan-3-one | OC(C)[C@H]1CC[C@H]2[C@@H]3CC[C@H]4N(C(CC[C@]4(C)[C@H]3CC[C@]12C)=O)C | C21H35NO2
reactant | 10-undecenoyl chloride | C(CCCCCCCCC=C)(=O)Cl | C11H19ClO
product | 20-trimethylacetyloxy-5α-4-azapregn-1-ene-3-one | CC(C(=O)OC(C)[C@H]1CC[C@H]2[C@@H]3CC[C@H]4NC(C=C[C@]4(C)[C@H]3CC[C@]12C)=O)(C)C | C25H39NO3
